US09169209B2
To a solution of 2-(trifluoromethoxy)benzenethiol (1.035 g, 5.33 mmol) in DMF (15 mL) at 0° C. was added K2CO3 (921 mg, 6.66 mmol). The solution was warmed to ambient temperature over 10 min before 4-fluorobenzonitrile (613 mg, 5.06 mmol) was added at once. The mixture was heated to 120° C. for 16 hours, then was then cooled and poured onto ice. The mixture was diluted with EtOAc, the layers separated, and the organics were washed successively with sat. NaHCO3 and brine (2×). The organics were dried (MgSO4), filtered, and purified by Biotage SP1 (DCM/hexanes gradient) to afford 4-((2-(trifluoromethoxy)phenyl)thio)benzonitrile (1.098 g, 74%) as a golden oil.

reactant | 2-(trifluoromethoxy)benzenethiol | 5.33 mmol, 1.035 g | FC(OC1=C(C=CC=C1)S)(F)F | C7H5F3OS
reactant | K2CO3 | 6.66 mmol, 921 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzonitrile | 5.06 mmol, 613 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-((2-(trifluoromethoxy)phenyl)thio)benzonitrile | 1.098 g, 74% | FC(OC1=C(C=CC=C1)SC1=CC=C(C#N)C=C1)(F)F | C14H8F3NOS
